US07175854B2
lovastatin (Mevacor);
simvastatin (Zocor); pravastatin (Pravachol); fluvasatin (Lescol).

reactant | simvastatin | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C25H38O5
reactant | pravastatin | CC[C@H](C)C(=O)O[C@H]1C[C@@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)O)O)O)O | C23H36O7
reactant | Lescol | CC(C)N1C=2C=CC=CC2C(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+]
product | lovastatin | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
